US05326905
2. N-[3-(4-(chloromethyl)phenyl)propionyl]phenylalanine, methyl ester
To a cooled (0° C.), stirred solution of 1.6 g (6.2 mmol) of 3-[4-(chloromethyl)phenyl]propionyl chloride and 1.3 g (6.2 mmol) of phenylalanine methyl ester hydrochloride salt in 6 ml of dichloromethane was added 1.4 g (14 mmol) of triethylamine. The reaction mixture was stirred at 0° C. for 0.5 hour, poured into EtOAc and washed with water. The EtOAc layer was dried over Na2SO4, filtered and evaporated to afford an oil. This oil was flash chromatographed (40% EtOAc/hexanes) to give 0.8 g of product; m.p. 89°-90° C.

reactant | 3-[4-(chloromethyl)phenyl]propionyl chloride | 6.2 mmol, 1.6 g | ClCC1=CC=C(C=C1)CCC(=O)Cl | C10H10Cl2O
reactant | phenylalanine methyl ester hydrochloride salt | 6.2 mmol, 1.3 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | triethylamine | 14 mmol, 1.4 g | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | N-[3-(4-(chloromethyl)phenyl)propionyl]phenylalanine, methyl ester | 0.8 g | ClCC1=CC=C(C=C1)CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C20H22ClNO3
